US06140347
1. N-Benzyl-N-ethyl-N-[2-[5-(1,2,4-triazol-1-ylmethyl)-1H-indol-3-yl]ethyl]amine Hydrogen Oxalate
A stirred, cooled (-5° C.) solution of 2-[5-(1,2,4-triazol-1-ylmethyl)-1H-indol-3-yl]ethanol (1.20 g, 4.96 mmol, Tet. Letts. 1994, 35, 6981-6984) in anhydrous tetrahydrofuran (100 ml) was treated with triethylamine (0.83 ml, 5.95 mmol) and methanesulphonyl chloride (0.47 ml, 5.95 mmol). After stirring at -5° C. for 30 minutes the mixture was filtered and the solids washed through with tetrahydrofuran (25 ml). The mesylate solution was treated with potassium carbonate (0.82 g, 5.95 mmol), sodium iodide (0.89 g, 5.95 mmol), N-ethylbenzylamine (3.6 ml, 24.8 mmol) and water (3 ml). The reaction mixture was stirred whilst heating at reflux for 4 days. The mixture was evaporated then the residue partitioned between dichloromethane (50 ml) and water (20 ml). The organic layer was collected, then extracted with 5M hydrochloric acid (2×30 ml). The aqueous extracts were combined, washed with ethyl acetate (2×30 ml), basified to pH=12 with 40% aqueous sodium hydroxide solution then extracted with dichloromethane (3×30 ml). The combined organic extracts were dried (potassium carbonate) then evaporated to give the crude product which was purified using column chromatography on silica, eluting with dichloromethane/methanol/ammonia (19:1:0.5) to give the title product free base as a pale yellow gum (1.10 g, 62%). The hydrogen oxalate salt had mp 153-156° C. MS, ES+, m/z=360 for (M+H)+ ; δ (360 MHz, d6 -DMSO) 1.26 (3H, t, J=7 Hz), 3.00-3.20 (6H, m), 4.31 (2H, s), 5.41 (2H, s), 7.05 (1H, d, J=8 Hz), 7.23 (1H, d, J=2 Hz), 7.33 (1H, d, J=8 Hz), 7.43-7.47 (4H, m), 7.54-7.57 (2H, m), 7.95 (1H, s), 8.60 (1H, s), 11.02 (1H, s). (Found: C, 61.94; H, 5.77; N, 14.25. C22H25N5. 1.35C2H2O4 requires C, 61.68; H, 5.80; N, 14.56%).

reactant | 2-[5-(1,2,4-triazol-1-ylmethyl)-1H-indol-3-yl]ethanol | 4.96 mmol, 1.20 g | N1(N=CN=C1)CC=1C=C2C(=CNC2=CC1)CCO | C13H14N4O
reactant | triethylamine | 5.95 mmol, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 5.95 mmol, 0.47 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | potassium carbonate | 5.95 mmol, 0.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.95 mmol, 0.89 g | [I-].[Na+]
reactant | N-ethylbenzylamine | 24.8 mmol, 3.6 ml | C(C)NCC1=CC=CC=C1 | C9H13N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | N-Benzyl-N-ethyl-N-[2-[5-(1,2,4-triazol-1-ylmethyl)-1H-indol-3-yl]ethyl]amine Hydrogen Oxalate | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)N(CCC1=CNC2=CC=C(C=C12)CN1N=CN=C1)CC | InChI=1S/C22H25N5.C2H2O4/c1-2-26(14-18-6-4-3-5-7-18)11-10-20-13-24-22-9-8-19(12-21(20)22)15-27-17-23-16-25-27;3-1(4)2(5)6/h3-9,12-13,16-17,24H,2,10-11,14-15H2,1H3;(H,3,4)(H,5,6)
